US07560558B2
Compound 15: 6,7-Dimethoxy-4-(3,4-dimethylphenoxy)quinoline hydrochloride
6,7-Dimethoxy-4-(3,4-dimethylphenoxy)quinoline (122 mg) was dissolved in a 10% hydrochloric acid/methanol solution, and the solution was stirred at room temperature for 15 min. The solvent was removed therefrom by distillation under the reduced pressure. The residue was washed with ethyl acetate to give the title compound (118 mg, yield 87%).

reactant | 6,7-Dimethoxy-4-(3,4-dimethylphenoxy)quinoline | 122 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)C)C | C19H19NO3
reactant | hydrochloric acid methanol | Cl.CO
product | 6,7-Dimethoxy-4-(3,4-dimethylphenoxy)quinoline hydrochloride | 118 mg, yield 87% | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)C)C | InChI=1S/C19H19NO3.ClH/c1-12-5-6-14(9-13(12)2)23-17-7-8-20-16-11-19(22-4)18(21-3)10-15(16)17;/h5-11H,1-4H3;1H
